Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
Weakness
 
Major Surgical or Invasive Procedure:
Midline placement

 
History of Present Illness:
The pt is a ___ yo F with RRMS (pt of Dr. ___ who presents 
with chronic progressive fatigue, weakness and possible UTI.

Pt was last seen in clinic with Dr. ___ week. At that 
time she was noted to have had a worsening of her MS symptoms, 
specifically her weakness in the R lower extremity. She had 
missed two Tysabri doses over the preceding months because of 
hospitalization including an admission with UTI/pyelonephritis 
and a fifth metarsal fracture in the right foot. Dr. ___ debated treating these symptoms with a course high 
dose steroids but opted to give her the scheduled Tysabri 
infusion. 

Since her appointment last week, the patient has noticed 
progression of all her symptoms including fatigue, gait, 
weakness, (generalized as well as more specifically in the RLE 
and RUE as well). She is unable to walk unassisted at this point 
given the weakness and an overall sense of imbalance. 

She has a chronic headache which is nothing new. She has nausea 
though and is unable to tolerate being in the car because of the 
back and forth movement. 

Of note, she has recently completed two Abx courses for 
recurrent UTI/pyelonephritis and has felt the recurrence of 
frequency and
burning and believes she might have a repeat UTI. 

She notes that tysabri infusions have always been well tolerated 
in the past and that she would typically get a "boost" in her 
energy. However this time she did not experience any beneficial 
effects. 
 
Past Medical History:
- MS, dx ___  
- GERD  
- Lumbar disc disease L3-5  

 
Social History:
___
Family History:
NC, no CVA, Sz, CA, MS. 
 
___ Exam:
Vitals: T: 98 P: 70  R: 16  BP: 118/77 SaO2: 100%RA 
General: Awake, cooperative, NAD. 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity 
Pulmonary: Lungs CTA bilaterally without R/R/W 
Cardiac: RRR, nl. S1S2, no M/R/G noted 
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted. 
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally. 
Skin: no rashes or lesions noted.
 
Neurologic: 

-Mental Status: Alert, oriented x 3.  Able to relate history 
without difficulty but with some memory lapses that must be 
filled in by husband.  ___, able to name ___ backward 
without difficulty.  Language is fluent with intact repetition 
and comprehension.  Normal prosody.  There were no paraphasic 
errors.  Pt. was able to name both high and low frequency
objects.  Able to read without difficulty.  Speech was not 
dysarthric. Able to follow both midline and appendicular 
commands. Verbal memory not tested, the pt. had good knowledge 
of current events.  There was no evidence of apraxia or neglect.
  
-Cranial Nerves: 
I: Olfaction not tested.  
II: PERRL 3 to 2mm and brisk.  VFF to confrontation. Funduscopic
exam revealed no papilledema, exudates, or hemorrhages. 
III, IV, VI: EOMI without nystagmus.  Normal saccades. No
diplopia. 
V: Facial sensation intact to light touch. 
VII: No facial droop, facial musculature symmetric. 
VIII: Hearing intact to finger-rub bilaterally.  
IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and SCM bilaterally. 
XII: Tongue protrudes in midline.
 
-Motor: Normal bulk,  tone was spastic but more so in the legs 
than arms b/l. Pronator drift on the right with pseudoathetosis

No adventitious movements, such as tremor, noted. No asterixis
noted.

  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   5  4+ 4+ 4+  5    4  5     5     5   5 
R  4    4+  ___   4+   4- 4     4+    4   4
 
-Sensory: Decreased to vibration/pinprick/temperature over right 
leg to just above the knee and R arm to elbow. Proprioception 
impaired at great toes on the right. No extinction to DSS.
 
-DTRs: 
  Bi Tri ___ Pat Ach 
L  3  3    3    2   0 
R  3  3    3    2   0
Plantar response was extensor bilaterally.
 
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.
 
-Gait: defered

Discharge Physical Exam: 
 
Pertinent Results:
___ 11:40PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 11:40PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-MOD
___ 11:40PM URINE  RBC-1 WBC-4 BACTERIA-FEW YEAST-NONE 
EPI-10
___ 11:40PM URINE  CA OXAL-RARE
___ 11:40PM URINE  MUCOUS-RARE
___ 09:10PM   GLUCOSE-131* UREA N-15 CREAT-0.7 SODIUM-136 
POTASSIUM-4.3 CHLORIDE-103 TOTAL CO2-22 ANION GAP-15
___ 09:10PM   estGFR-Using this
___ 09:10PM   ALT(SGPT)-13 AST(SGOT)-20 ALK PHOS-38 TOT 
BILI-0.2
___ 09:10PM   ALBUMIN-4.2 CALCIUM-9.0 PHOSPHATE-3.7 
MAGNESIUM-2.2
___ 09:10PM   LACTATE-2.3*
___ 09:10PM   WBC-8.4 RBC-4.80 HGB-13.9 HCT-41.9 MCV-87 
MCH-29.0 MCHC-33.2 RDW-15.1
___ 09:10PM   NEUTS-56.0 ___ MONOS-4.4 EOS-2.3 
BASOS-0.6
___ 09:10PM   PLT COUNT-234
___ 09:10PM   ___ PTT-28.3 ___
 
Brief Hospital Course:
The pt is a ___ yo F w RRMS with progressive worsening of MS 
symptoms in the setting of 2 missed tysabri infusions over past 
months. Etiologies include ___, MS flare and patient found to 
have multiple small enhancing lesions on MRI imaging. Patient 
was admitted and following MRI results was started on 9 day IV 
steroid regiment. The patient slowly did better over the weekend 
and was followed by ___. She has excellent home services and was 
reluctant to got to an ___ rehab setting. She was followed 
by ___ inpatient and tolerated the steroids well. She was 
discharged home to continue the steroids and home ___. 

She will have follow-up with Dr. ___ to contact her 
office with questions or concerns. 
 
Medications on Admission:
Adderall 20 mg p.o. q.a.m., 10 mg p.o. noon. 
Desonide lotion to chest rash as needed, 
Vicodin 7.5/750 taken about once a day or less for back pain, 
Tysabri infusions q6weeks
pantoprazole 40 mg one p.o. daily,
sertraline 150 mg p.o. q.a.m. (interaction with both amphetamine
salts and sumatriptan underscored with the patient), 
sumatriptan succinate 100 mg at onset of migraine.

 
Discharge Medications:
1. Adderall *NF* (amphetamine-dextroamphetamine) 10 mg Oral BID 
Reason for Ordering: Wish to maintain preadmission medication 
while hospitalized, as there is no acceptable substitute drug 
product available on formulary.
2. Desonide 0.05% Cream 1 Appl TP DAILY apply to chest as needed 

3. Sertraline 150 mg PO DAILY 
4. Omeprazole 40 mg PO DAILY 
5. MethylPREDNISolone Sodium Succ 500 mg IV Q24H Duration: 3 
Days 
RX *Solu-Medrol 500 mg 1 dose over 8 hours daily Disp #*3 Each 
Refills:*0
6. MethylPREDNISolone Sodium Succ 250 mg IV Q24H Duration: 3 
Days 
RX *Solu-Medrol 500 mg 250 mg over 8 hours daily Disp #*3 Each 
Refills:*0
7. MethylPREDNISolone Sodium Succ 1000 mg IV Q24H Duration: 1 
Doses 
If discharged ___ patient can receive 3rd dose at home.  
RX *methylprednisolone sodium succ 1,000 mg 1 dose over 8 hours 
daily Disp #*1 Each Refills:*0
8. Quetiapine Fumarate ___ mg PO HS insomnia 
RX *quetiapine 25 mg ___ Tablet(s) by mouth at bedtime Disp #*10 
Each Refills:*0
9. Hydrocodone-Acetaminophen (5mg-500mg ___ TAB PO Q4H:PRN pain 

1. Adderall *NF* (amphetamine-dextroamphetamine) 10 mg Oral BID 
Reason for Ordering: Wish to maintain preadmission medication 
while hospitalized, as there is no acceptable substitute drug 
product available on formulary.
2. Desonide 0.05% Cream 1 Appl TP DAILY apply to chest as needed 

3. Sertraline 150 mg PO DAILY 
4. Omeprazole 40 mg PO DAILY 
5. MethylPREDNISolone Sodium Succ 500 mg IV Q24H Duration: 3 
Days 
RX *Solu-Medrol 500 mg 1 dose over 8 hours daily Disp #*3 Each 
Refills:*0
6. MethylPREDNISolone Sodium Succ 250 mg IV Q24H Duration: 3 
Days 
RX *Solu-Medrol 500 mg 250 mg over 8 hours daily Disp #*3 Each 
Refills:*0
7. MethylPREDNISolone Sodium Succ 1000 mg IV Q24H Duration: 1 
Doses 
If discharged ___ patient can receive 3rd dose at home.  
RX *methylprednisolone sodium succ 1,000 mg 1 dose over 8 hours 
daily Disp #*1 Each Refills:*0
8. Quetiapine Fumarate ___ mg PO HS insomnia 
RX *quetiapine 25 mg ___ Tablet(s) by mouth at bedtime Disp #*10 
Each Refills:*0
RX *quetiapine 25 mg ___ Tablet(s) by mouth at bedtime Disp #*14 
Each Refills:*0
9. Hydrocodone-Acetaminophen (5mg-500mg ___ TAB PO Q4H:PRN pain 
10. Potassium Chloride 20 mEq PO DAILY Duration: 24 Hours 
RX *potassium chloride 20 mEq 20 mEq by mouth Daily Disp #*6 
Each Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. MS ___ VS ___

 
___ Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Neuro Exam: AOx3, right hemiparesis, ___ weaker than UE. 

 
Discharge Instructions:
Ms ___, You were admitted with MS flare. You were treated 
with IV steroids and are beginning to make improvements. You 
should continue to make improvements at home while completing 
the steroid course. Please call Dr. ___ office with any 
questions or concerns regarding the steroid treatment. You 
should continue taking all of your regular home medications.  
 
Followup Instructions:
___